US07700589B2
83a) ethyl 2-amino-3-(3,4-dimethyl-phenyl)-propionate
A mixture of 18.6 g (93.5 mmol) 4-bromomethyl-1,2-dimethyl-benzene, 25.0 g (93.5 mmol) ethyl(diphenylmethylidene-amino)-acetate, 3.29 g (10.0 mmol) tetrabutylammonium bromide, 41.3 g (250 mmol) K2CO3×1.5H2O and 600 mL acetonitrile was refluxed overnight. The reaction mixture was filtered, the filtrate was evaporated down under reduced pressure, the residue was taken up in 500 mL diethyl ether and combined with 250 mL semiconc. HCl with vigorous stirring. Then the organic phase was separated off, the aqueous phase was extracted twice with diethyl ether and neutralised by the addition of solid NaHCO3. The aqueous phase was extracted by shaking three times with 200 mL EtOAc, the combined organic phases were washed once with water, dried over Na2SO4, filtered and evaporated down under reduced pressure.

reactant | 4-bromomethyl-1,2-dimethyl-benzene | 93.5 mmol, 18.6 g | BrCC1=CC(=C(C=C1)C)C | C9H11Br
reactant | ethyl(diphenylmethylidene-amino)-acetate | 93.5 mmol, 25.0 g | C(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17NO2
reactant | K2CO3 | 250 mmol, 41.3 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetrabutylammonium bromide | 10.0 mmol, 3.29 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 600 mL | C(C)#N | C2H3N
product | ethyl 2-amino-3-(3,4-dimethyl-phenyl)-propionate | NC(C(=O)OCC)CC1=CC(=C(C=C1)C)C | C13H19NO2
